US04383949
800 g (3.6 moles) of 3-bromo-4-fluoro-benzoyl fluoride were metered into 760 g of 25% strength aqueous ammonia solution (11 moles of NH3), which had been diluted with a further 760 ml of water, at a rate such that an internal temperature of 40° to 50° C. was maintained by the weakly exothermic reaction. After stirring for a further 30 minutes, the crystalline product was isolated by filtration, washed with water and dried. 765 g (97% of theory) of 3-bromo-4-fluoro-benzoic acid amide with a melting point of 131°-133° C. were obtained.

reactant | 3-bromo-4-fluoro-benzoyl fluoride | 3.6 moles, 800 g | BrC=1C=C(C(=O)F)C=CC1F | C7H3BrF2O
reactant | ammonia | 11 moles | N | H3N
solvent | water | 760 ml | O | H2O
product | 3-bromo-4-fluoro-benzoic acid amide | 765 g, 97% | BrC=1C=C(C(=O)N)C=CC1F | C7H5BrFNO
